### PR TITLE
[Merged by Bors] - feat: Mapping extreme points under continuous maps

### PR DESCRIPTION
**Pull request by YaelDillies**
Prove that extreme points are preserved under affine equivalences, and the less trivial statement that a continuous affine map sends extreme points of a compact set to a superset of the extreme
points of the image of that set.

Also fix a few name and tweak the API a bit.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Extreme.lean [hunk 1]
```diff
@@ -236,6 +232,23 @@ theorem extremePoints_pi (s : ∀ i, Set (π i)) :
 
 end OrderedSemiring
 
+section OrderedRing
+variable [OrderedRing 𝕜] [AddCommGroup E] [Module 𝕜 E] [AddCommGroup F] [Module 𝕜 F]
+
+lemma image_extremePoints (f : E ≃ₗ[𝕜] F) (s : Set E) :
```
Comment (urkud) [inline Mathlib/Analysis/Convex/Extreme.lean:238]: Should this live in a namespace?

File: Mathlib/Analysis/Convex/KreinMilman.lean [hunk 2]
```diff
@@ -101,7 +101,24 @@ theorem closure_convexHull_extremePoints (hscomp : IsCompact s) (hAconv : Convex
...
-  obtain ⟨y, hy⟩ := (h.isCompact hscomp).has_extreme_point ⟨z, hzA, hz⟩
+  obtain ⟨y, hy⟩ := (h.isCompact hscomp).extremePoints_nonempty ⟨z, hzA, hz⟩
   linarith [hlr _ (subset_closure <| subset_convexHull _ _ <|
     h.isExtreme.extremePoints_subset_extremePoints hy), hy.1.2 x hxA]
 #align closure_convex_hull_extreme_points closure_convexHull_extremePoints
+
+/-- A continuous affine map sends extreme points of a compact set to a superset of the extreme
+points of the image of that set. This inclusion is in general strict. -/
+lemma extremePoints_image_subset_image_extremePoints (f : E →A[ℝ] F) (hs : IsCompact s) :
+    extremePoints ℝ (f '' s) ⊆ f '' extremePoints ℝ s := by
```
Comment (urkud) [inline Mathlib/Analysis/Convex/KreinMilman.lean:112]: Use `Set.SurjOn`?

File: Mathlib/Analysis/Convex/Extreme.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Extreme.lean:238]: `extremePoints` is not in a namespace

Comment (urkud) [reply Mathlib/Analysis/Convex/Extreme.lean:238]: I meant `LinearEquiv.image_extremePoints`. Or use a typeclass assumption on the type of `f` (do we have `LinearEquivClass`?). BTW, this is true for affine equivalences as well.

Comment (YaelDillies) [reply Mathlib/Analysis/Convex/Extreme.lean]: Switched to using `LinearEquivClass`. You can see why I originally didn't want to do that.

Comment (urkud) [reply Mathlib/Analysis/Convex/Extreme.lean]: We have functions "from class to hom" for some other homs. I think that we should either add it here, or generalize relevant parts to `*Class`. I can have a look in ~1h.

Comment (urkud) [reply Mathlib/Analysis/Convex/Extreme.lean]: I golfed. I think that we should add a definition `SemilinearMapClass.toLinearMap` but this may wait.

bors d+

**Comment by YaelDillies** [comment]
I ended up adding `LinearMapClass.linearMap` because it does make things nicer.

bors merge
